US05360800
2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A solution of 4-[[[(1-methyl-1H-indol-2-yl)ethyl]amino]methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide (140 mg) in dry dichloromethane (15 ml) was cooled to 5° and the mixture was stirred under nitrogen while phosgene (12% w/w solution in toluene; 1 ml) was added dropwise. The reaction mixture was stirred at room temperature for 2 h, aluminium trichloride (60 mg) was powdered and added, and stirring was continued overnight. After this time methanol (1 ml) was added and the reaction mixture was adsorbed onto FCC silica and purified by FCC eluting with System A (150:8:1) to give the protected derivative of the title compound (42 mg), as a solid, identical (by t.l.c. and m.p.) to the product of Intermediate 27. Deprotection as described in either of Examples 25 or 26 gives the title compound.

reactant | 4-[[[(1-methyl-1H-indol-2-yl)ethyl]amino]methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide | 140 mg | CN1C(=CC2=CC=CC=C12)CCNCC=1N=CN(C1C)S(=O)(=O)N(C)C | C18H25N5O2S
reactant | phosgene | 1 ml | C(=O)(Cl)Cl | CCl2O
reactant | aluminium trichloride | 60 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methanol | 1 ml | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 42 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
